US05589474
(a) 2-(2-Aminophenylthio)benzonitrile
2-Aminothiophenol (6.26 g, 50 mmol) was dissolved in dry THF (50 ml) and sodium hydride (2 g of 60% dispersion, 1 eq) added with stirring at 0° C. under nitrogen. After stirring for 0.5 hr this mixture was added portionwise to a stirred solution of 2-fluorobenzonitrile (1 eq) in THF (30 ml). The mixture was allowed to warm to room temperature overnight and then evaporated in vacuo and the residue purified by chromatography on silica, eluting with dichloromethane. The title compound was obtained as an off-white solid (5.27 g).

reactant | 2-Aminothiophenol | 50 mmol, 6.26 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium hydride | 2 g, 1 eq | [H-].[Na+]
reactant | 2-fluorobenzonitrile | 1 eq | FC1=C(C#N)C=CC=C1 | C7H4FN
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-(2-Aminophenylthio)benzonitrile | NC1=C(C=CC=C1)SC1=C(C#N)C=CC=C1 | C13H10N2S
